US08623907B2
To a solution of 2-ethyl-5-bromo-1-nitrobenzene (9.71 g, 230 mmol) in ethanol (125 ml) is added tin(II) chloride dihydrate (35.72 g, 225.71 mmol), followed by heating at 70° C. for 2 hours. After cooling to room temperature the solution is poured into crushed ice (1 liter) then diluted with ethyl acetate (200 ml). Solid sodium carbonate is cautiously added until pH 7 is achieved, at which stage the viscous mixture is filtered through diatomaceous earth (further washing with ethyl acetate/aqueous sodium carbonate) and the phases separated. After additional extraction of the aqueous phase, all organic phases are combined, dried over anhydrous magnesium sulfate then concentrated in vacuo. The crude oil is purified by flash column chromatography on silica gel (hexane/ethyl acetate 8:2 ratio) to afford 5-bromo-2-ethylaniline (7.89 g) as a brown oil.

reactant | 2-ethyl-5-bromo-1-nitrobenzene | 230 mmol, 9.71 g | C(C)C1=C(C=C(C=C1)Br)[N+](=O)[O-] | C8H8BrNO2
reactant | tin(II) chloride dihydrate | 225.71 mmol, 35.72 g | O.O.[Sn](Cl)Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-bromo-2-ethylaniline | 7.89 g | BrC=1C=CC(=C(N)C1)CC | C8H10BrN
